US06204221B1
3-Fluoro-5-chloro-2-cyanopyridine
1.39 g of 3-fluoro-5-chloro-2-pyridinecarboxamide (Example H7) are initially introduced into 8 ml of absolute dioxane, and 1.3 ml of dry pyridine are added. 1.30 ml of trifluoroacetic anhydride are slowly added with a syringe, while stirring and cooling in an ice-bath, and the mixture is subsequently stirred for 30 minutes. The resulting reaction mixture is poured onto 1N hydrochloric acid at 25° C. and extracted with diethyl ether. The ether phase is washed with dilute hydrochloric acid, water, dilute sodium bicarbonate solution and water. After drying over sodium sulfate, the mixture is filtered and the filtrate is concentrated to dryness. 1.14 g of the desired compound are obtained as a slightly violet-coloured solid of melting point 72-73° C.

reactant | 3-fluoro-5-chloro-2-pyridinecarboxamide | 1.39 g | FC=1C(=NC=C(C1)Cl)C(=O)N | C6H4ClFN2O
reactant | dioxane | 8 ml | O1CCOCC1 | C4H8O2
reactant | trifluoroacetic anhydride | 1.30 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pyridine | 1.3 ml | N1=CC=CC=C1 | C5H5N
product | 3-Fluoro-5-chloro-2-cyanopyridine | 1.14 g | FC=1C(=NC=C(C1)Cl)C#N | C6H2ClFN2
